US06900215B2
2-Bromopyridine and 2-fluorobenzeneboronic acid were coupled using the procedure described in Example 43 to afford 2-(2-fluorophenyl)pyridine as a pale yellow oil which crystallised on standing: δH (400 MHz, CDCl3) 7.13-7.19 (1H, m), 7.24-7.28 (2H, m), 7.35-7.41 (1H, m), 7.73-7.81 (2H, m), 7.97 (1H, ddd, J 8, 8 and 2), 8.72-8.74 (1H, m); m/z (ES+) 174 (M++H).

reactant | 2-Bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2-fluorobenzeneboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 2-(2-fluorophenyl)pyridine | FC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8FN
